US06284869B1
3,9-Dioxo-3,9-diphospha-2,4,8,10-tetraoxa-spiro[5.5]undecane was prepared as follows. Under stirring and a nitrogen atmosphere a suspension of 68 g of pentaerythitol, 152 g of diethylphosphite, and 73 g of water-free tetraline was heated to 135° C. At 135° C., 55% of the theoretical amount of ethanol were removed from the reaction mixture over a period of 3 h. The pressure was diminished slowly to 10 kPa and more ethanol was removed at 135° C. After cooling to 80° C., 60 g of methanol were added after which the methanol layer with the product was separated from the tetraline layer. After evaporation at a 95° C. and a pressure of 0.2 kPa, 100 g of a viscous product were obtained, which crystallized on standing at room temperature.

reactant | diethylphosphite | 152 g | C(C)OP(OCC)[O-]
solvent | water | 73 g | O | H2O
product | 3,9-Dioxo-3,9-diphospha-2,4,8,10-tetraoxa-spiro[5.5]undecane | O=P1OCC2(CO1)COP(OC2)=O | C5H10O6P2
